US06436915B1
Synthesis of 3,5-Diamino-4-[(4-methylsulfanylphenyl)hydrazono]pyrazole
This compound was prepared using 108 mg (0.5 mmol) of 2-[(4-methylsulfanylphenyl)-hydrazono]malononitrile, which was derived from 4-methylthioaniline (117 mg, 1.0 mmol) and malononitrile (1.5 mmol) as described in Example 8, and hydrazine hydrate. Precipitate formed in the reaction tube immediately after the addition of hydrazine hydrate. The resulting solid was isolated by filtration, washed with ethanol, and dried to yield 95 mg (77%) of the title compound as an orange solid.

reactant | 2-[(4-methylsulfanylphenyl)-hydrazono]malononitrile | 0.5 mmol, 108 mg | CSC1=CC=C(C=C1)NN=C(C#N)C#N | C10H8N4S
reactant | 4-methylthioaniline | 1.0 mmol, 117 mg | CSC1=CC=C(N)C=C1 | C7H9NS
reactant | malononitrile | 1.5 mmol | C(CC#N)#N | C3H2N2
reactant | hydrazine hydrate | O.NN
product | 3,5-Diamino-4-[(4-methylsulfanylphenyl)hydrazono]pyrazole | 95 mg, 77% | NC1=NN=C(C1=NNC1=CC=C(C=C1)SC)N | C10H12N6S
